US04963590
3-(3,4-Dihydroxy-5-nitrophenyl)-1-(4-nitrophenyl)prop-2-en-1-one
The procedure described in Example 8 was repeated using 1.83 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 1.65 g of 4'-nitroacetophenone. Yield 1.25 g (38%), m.p. 255°-256° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.83 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 4'-nitroacetophenone | 1.65 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
product | 3-(3,4-Dihydroxy-5-nitrophenyl)-1-(4-nitrophenyl)prop-2-en-1-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C15H10N2O7
